Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
pcn
 
Attending: ___.
 
Chief Complaint:
Diarrhea, nausea, chest discomfort
 
Major Surgical or Invasive Procedure:
___ Placement
 
History of Present Illness:
___ female with stage IV endometrial cancer on 
anastrazole, DM2, CAD, CKD, chronic respiratory failure with 
hypoxemia on home oxygen, and morbid obesity presents from her 
PCP's office with gastrointestinal illness and chest discomfort. 


She was in her usual state of health until ___, when she 
experienced the onset of fever, headache, diarrhea, heaving 
(mostly dry), and malaise. She noted some chest discomfort 
accompanying the dry heaves that felt "like someone punching 
her" in the chest (not like the pressure she felt with her prior 
MI). Her PCP was concerned about EKG changes, and sent her to 
the hospital.

She has a history of cardiac disease, including an MI in ___. 
At that time, she was cathed and found to have significant 
disease but due to intolerance of the procedure no intervention 
was carried out. She has been medically managed in the interim.

In the ED, initial vitals were T 99.4 HR 72 BP 102/45 RR 18 SpO2 
98%2L. CT head w/o contrast was unremarkable.  CXR showed mild 
cardiomegaly with central vascular congestion. Labs were 
remarkable for K of 3.0 for which she was given 40meq potassium. 
Vitals prior to transfer were T 100.4 HR 66 BP 129/69 RR 18 
SpO296%2L. 

On the floor, vitals are stable and she feels better. She denies 
heaves, chest pain, difficulty breathing, nausea, or abdominal 
pain. She does endorse ongoing diarrhea.

 
Past Medical History:
Endometrial cancer: Diagnosed ___, Stage IV, s/p hysterectomy 
and radiation, on anastrazole
DM2: Latest HbA1C 4.5 (___)
CAD: ___ ___, underwent cardiac catheterization 
without intervention
Chronic respiratory failure: 2L home oxygen
CKD stage 3
HTN
hypothyroidism
thrombocytopenia
anemia
depression
 
Social History:
___
Family History:
Father died at ___ after ___ MIs
Mother died at ___, had CHF
Sister died of breast cancer
 
Physical Exam:
Admission:
VS: T 98.4 BP 105/52 HR 64 RR 20 SpO2 98%2L
General: Obese woman sleeping in hospital bed, easily arousable. 

HEENT: NCAT, MMM, no teeth
Neck: Supple, no LAD, no JVD
CV: Distant heart sounds. Regular rate and rhythm, no M/R/G 
appreciated.
Lungs: Clear to auscultation bilaterally.
Abdomen: Obese, soft, non-distended, non-tender. Bowel sounds 
present.
GU: Deferred
Ext: Warm, 2+ distal pulses bilaterally, darkened skin around 
ankles (?stasis dermatitis), no edema 
Neuro: Alert, oriented, moving all extremities

Discharge:
VS: T 97.8 BP 104/52 HR (not recorded) RR 18 SpO2 94%RA
General: Obese woman in hospital bed, no distress.  
HEENT: NCAT, mucous membranes moist  
Neck: Supple, no LAD  
CV: Regular rate and rhythm, distant heart sounds, no 
appreciable murmurs/rubs/gallops  
Lungs: Poor aeration throughout, otherwise clear to auscultation
Abdomen: Obese, soft, non-distended. Bowel sounds present.  
Ext: Warm, 2+ distal pulses bilaterally, darkened skin around 
ankles (?stasis dermatitis), 2+ pitting edema
Neuro: Alert, oriented, moving all extremities  

 
Pertinent Results:
___ 01:50PM BLOOD WBC-6.8 RBC-3.51* Hgb-9.5* Hct-29.2* 
MCV-83 MCH-27.1 MCHC-32.5 RDW-15.7* Plt Ct-62*
___ 08:25AM BLOOD WBC-5.2 RBC-3.67* Hgb-10.0* Hct-30.8* 
MCV-84 MCH-27.2 MCHC-32.5 RDW-15.8* Plt Ct-59*
___ 07:15AM BLOOD WBC-3.7* RBC-3.13* Hgb-8.4* Hct-26.3* 
MCV-84 MCH-26.9* MCHC-32.1 RDW-15.2 Plt Ct-46*
___ 01:30PM BLOOD WBC-3.4* RBC-3.12* Hgb-8.4* Hct-26.4* 
MCV-85 MCH-27.0 MCHC-31.9 RDW-15.3 Plt Ct-51*
___ 05:40AM BLOOD WBC-3.0* RBC-3.23* Hgb-8.9* Hct-27.3* 
MCV-84 MCH-27.6 MCHC-32.7 RDW-15.4 Plt Ct-53*
___ 05:36AM BLOOD WBC-1.9* RBC-3.08* Hgb-8.2* Hct-25.6* 
MCV-83 MCH-26.6* MCHC-31.9 RDW-15.2 Plt Ct-54*
___ 07:15AM BLOOD WBC-1.5* RBC-2.89* Hgb-7.7* Hct-24.0* 
MCV-83 MCH-26.6* MCHC-32.0 RDW-15.2 Plt Ct-71*
___ 03:40PM BLOOD WBC-2.2* RBC-3.07* Hgb-8.2* Hct-26.0* 
MCV-85 MCH-26.8* MCHC-31.6 RDW-15.3 Plt Ct-88*
___ 07:00AM BLOOD WBC-1.5* RBC-2.79* Hgb-7.6* Hct-23.6* 
MCV-85 MCH-27.4 MCHC-32.4 RDW-15.2 Plt Ct-81*
___ 01:20PM BLOOD WBC-1.9* RBC-3.24* Hgb-8.6* Hct-27.4* 
MCV-85 MCH-26.6* MCHC-31.5 RDW-15.1 Plt Ct-93*
___ 06:35AM BLOOD WBC-1.9* RBC-2.88* Hgb-7.9* Hct-24.2* 
MCV-84 MCH-27.5 MCHC-32.6 RDW-15.2 Plt Ct-90*

___ 01:50PM BLOOD Neuts-87.6* Lymphs-6.4* Monos-5.7 Eos-0.1 
Baso-0.1
___ 05:36AM BLOOD Neuts-73.4* Lymphs-17.0* Monos-7.0 
Eos-2.3 Baso-0.3
___ 07:15AM BLOOD Neuts-65 Bands-0 ___ Monos-5 Eos-5* 
Baso-0 ___ Myelos-0
___ 06:35AM BLOOD Neuts-61.4 ___ Monos-12.3* 
Eos-1.5 Baso-0.9

___ 01:50PM BLOOD Glucose-165* UreaN-19 Creat-1.0 Na-140 
K-3.0* Cl-98 HCO3-33* AnGap-12
___ 05:40AM BLOOD Glucose-103* UreaN-23* Creat-1.1 Na-135 
K-3.8 Cl-101 HCO3-30 AnGap-8
___ 06:35AM BLOOD Glucose-101* UreaN-16 Creat-0.7 Na-139 
K-4.1 Cl-103 HCO3-31 AnGap-9

___ 01:50PM BLOOD CK(CPK)-26*
___ 08:35PM BLOOD ALT-23 AST-28 CK(CPK)-20* AlkPhos-158* 
TotBili-1.8*
___ 05:36AM BLOOD CK(CPK)-11*
___ 07:00AM BLOOD ALT-24 AST-35 LD(LDH)-165 AlkPhos-288* 
TotBili-0.3
___ 06:35AM BLOOD ALT-31 AST-48* AlkPhos-297* TotBili-0.3

___ 01:50PM BLOOD CK-MB-1 cTropnT-0.21*
___ 08:35PM BLOOD CK-MB-1 cTropnT-0.17*
___ 03:15AM BLOOD CK-MB-1 cTropnT-0.16*
___ 08:25AM BLOOD CK-MB-1 cTropnT-0.19*
___ 07:15AM BLOOD CK-MB-1 cTropnT-0.14*

___ 01:50PM BLOOD Calcium-8.0* Phos-1.2* Mg-1.3*
___ 05:40AM BLOOD Calcium-8.0* Phos-2.6* Mg-2.0
___ 06:35AM BLOOD Calcium-8.2* Phos-2.5* Mg-1.6

Imaging
___ CHEST (PA & LAT): IMPRESSION:  Mild cardiomegaly with 
central vascular congestion, but without frank edema.

___ CT HEAD W/O CONTRAST: IMPRESSION:  No acute 
intracranial process.  Small hypodensity in the left centrum 
semiovale may relate to small vessel ischemic change, however, 
given assymetric with the right side, nonurgent brain MRI would 
further evaluate.

___  Cardiovascular ECHO: Poor echo windows. The left 
atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and global 
systolic function (LVEF>55%). Due to suboptimal technical 
quality, a focal wall motion abnormality cannot be fully 
excluded. There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. Mild (1+) aortic regurgitation is seen. The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. The pulmonary artery systolic pressure could not 
be determined. There is no pericardial effusion. 

___ RENAL U.S.: IMPRESSION: 1.  No definite ultrasound 
findings to suggest pyelonephritis, although this diagnosis 
cannot be excluded sonographically.  2.1 cm hypoechoic lesion in 
the
right upper renal pole, poorly visualized and indeterminate; 
this could represent a cyst but in the current clinical setting, 
focal infection or abscess cannot be excluded.  Per the 
patient's report, there has been a recent abdominal CT performed 
at ___ comparison to this study is recommended.  Of 
note, if this study is uploaded into PACS, an addendum could be 
issued at that time.  If this study cannot be obtained, further 
evaluation could be performed with CT. 3.  Right lower pole 15 
mm cyst or calyceal diverticulum.  4.  Possible duplex right 
kidney.  

___ CT ABD & PELVIS WITH CO: IMPRESSION: 1.  Large 
rim-enhancing fluid collection along the lower abdominal 
incision site, likely a seroma, is stable to slightly smaller 
since ___. 
Recommended clinical correlation to assess for possible 
superinfection. 2.  No intra-abdominal pathology identified to 
explain the patient's symptoms. 3.  Unexplained massive 
splenomegaly.
4.  Cholelithiasis.

___ CHEST PORT. LINE PLACEM: IMPRESSION: 1.  Right PICC at 
the cavoatrial junction. 2.  Stable cardiomegaly.

MICROBIOLOGY
___ 3:15 am BLOOD CULTURE      RIGHT ARM. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
___ female with stage IV endometrial cancer on 
anastrazole, DM2, CAD, CKD, chronic respiratory failure with 
hypoxemia on home oxygen, and morbid obesity presents from her 
PCP's office with chest discomfort and possible EKG changes in 
the context of a gastrointestinal illness.
.
# Nausea/vomiting/diarrhea  
Patient presented following three days of diarrhea, nausea, and 
dry heaving. This was more severe than her chronic diarrhea from 
radiation, and was likely the result of a viral or bacterial 
gastroenteritis. Stool studies and C. diff testing were 
negative, and according to the patient's oncologist, Arimidex 
was not likely causative. Ondansetron was originally given for 
nausea but this was changed to compazine given concern about QTc 
prolongation. The nausea and vomiting resolved over the course 
of the hospital stay, and the diarrhea improved significantly.
. 
# Chest pain  
Patient presented with chest discomfort that occurred in the 
context of dry heaving. Her PCP was concerned about EKG changes 
(septal Q waves and T wave inversions), especially concerning 
given the patient's significant history of CAD, including an MI 
that led to a cardiac catheterization in ___ (occlusion of the 
cardiac vessels was found at that time but patient did not 
tolerate the procedure and no intervention was done). However, 
following admission the patient noted that the discomfort was 
different from the pressure she had felt during her prior MI, 
and repeat EKG was similar to prior baseline (___). Troponins 
were elevated to 0.21 but downtrended. The overall presentation 
was not considered highly concerning for acute coronary 
syndrome, so anticoagulation was avoided given baseline 
thrombocytopenia. Cardiology (Atrius) was consulted and agreed 
that this was likely demand ischemia in the context of 
hypovolemia rather than ACS.
.  
# Fever/GNR bacteremia (E.Coli)
Febrile to 100.4 at ED, and had several further low-grade fevers 
on the floor. UA was positive for nitrites, and given diarrhea, 
GI was considered another possible source of infection. She was 
started on Bactrim on ___, but this was changed to meropenem on 
___ when blood cultures grew gram negative rods. This was 
continued despite final culture results showing pan-sensitive E. 
coli due to concern about cross-reactivity of cephalosporins 
with a penicillin allergy and fluoroquinolones in the context of 
prolonged QTc. ID consulted and determined that it was likely 
safe for her to try ceftriaxone, which she did on ___, and she 
was discharged on this after PICC placement.  Surveillance blood 
cultures were negative.  Renal U/S and CT scan of abd/pelvis 
were obtained, which did not show evidence of abscess.  She did 
have a fluid collection in the abdomen, but this is known from 
prior imaging approximately 1 month ago, and has improved in 
size.  The collection is most likely a seroma.  
.
#Pancytopenia  
Downtrending WBCs (to 1.5), hematocrit, and platelets; she was 
placed on neutropenic precautions. Possibly secondary to 
infection, antibiotics (Bactrim or meropenem), or other 
medication effect. OSH records showed baseline WBCs over past 
few months in 3s following radiation treatment. Although the 
levels did not return to baseline, they stabilized prior to 
discharge, and she will follow up with her outpatient providers.
 .
# Elevated bicarb  
Bicarb elevated to 33 on admission, likely representing a 
metabolic alkalosis due to GI losses from diarrhea. Metabolic 
compensation for a chronic respiratory acidosis may also have 
contributed.  Trended down shortly after admission.
.
# Diabetes  
Patient's home NPH was continued, and she was placed on an 
insulin sliding scale.
.
# Endometrial cancer  
Completed radiation therapy; not a candidate for chemo. Arimidex 
was continued.
.
TRANSITIONAL ISSUES
1.  complete course of IV antibiotics for E. coli bacteremia
2.  repeat CBC in 2 days to monitor leukopenia, anemia, 
thrombocytopenia
3.  repeat LFT's at PCP ___
4.  non-emergent MRI head to evaluate small hypodensity seen on 
CT head from ___ (see below for report)
5.  consider serial imaging of abdomen to monitor lesions in 
right kidney and fluid collection in abdomen. 
.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. anastrozole *NF* 1 mg Oral daily 
3. Omeprazole 40 mg PO DAILY 
4. Fluoxetine 40 mg PO DAILY 
5. Simvastatin 20 mg PO DAILY 
6. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
7. Lisinopril 5 mg PO DAILY 
8. Metoprolol Succinate XL 100 mg PO BID 
9. Aspirin 81 mg PO DAILY 
10. TraZODone 25 mg PO HS 
11. Nitroglycerin SL 0.4 mg SL PRN chest pain 
12. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
13. Naproxen 220 mg PO Q8H:PRN pain 
14. Humulin N 15 Units Breakfast
Humulin N 15 Units Bedtime

 
Discharge Medications:
1. anastrozole *NF* 1 mg Oral daily 
2. Aspirin 81 mg PO DAILY 
3. Fluoxetine 40 mg PO DAILY 
4. Humulin N 15 Units Breakfast
Humulin N 15 Units Bedtime
5. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Lisinopril 5 mg PO DAILY 
8. Metoprolol Succinate XL 100 mg PO BID 
9. Nitroglycerin SL 0.4 mg SL PRN chest pain 
10. Omeprazole 40 mg PO DAILY 
11. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
12. Simvastatin 20 mg PO DAILY 
13. TraZODone 25 mg PO HS 
14. Naproxen 220 mg PO Q8H:PRN pain 
15. CeftriaXONE 2 gm IV Q24H 
RX *ceftriaxone 2 gram 2 g IV once daily Disp #*7 Syringe 
Refills:*0
16. Outpatient Lab Work
Please check CBC with differential on ___ and fax results to 
PCP ___ MD Phone: ___ 
Fax: ___ 
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Diarrhea
2. Urinary tract infection
3. GNR bacteremia
4. Pancytopenia
5. Demand ischemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the hospital at ___ 
___ from ___ to ___ for assessment of your 
chest pain and nausea/vomiting.  Your symptoms resolved on their 
own but you were found to have a bacterial infection in your 
blood.  You were started on antibiotics and will continue these 
at home until ___.  Your blood counts were found to be low 
but stable; you will need repeat blood work drawn by the 
visiting nurse on ___.  Please continue to speak with your 
primary care doctor and oncologist regarding these findings. 

While you were here, a CAT scan of the head was performed 
showing a small area of asymmetry; please speak with your 
primary care doctor regarding ___ nonurgent MRI for further 
evaluation. 

It was a pleasure caring for you during your admission at ___.
 
Followup Instructions:
___